data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-C(=O)OC_1-c2ccccc2_2-c2cc(OC)ccc2_3-C(=O)OC_4-C_5-Cl_6-C=C_7-c2ccccc2_8-C(C)(C)C_9-Cl","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(c2ccccc2)c(c2cc(OC)ccc2)c(C(=O)OC)c(C)c(Cl)c1O","c1(C=C)c(c2ccccc2)c(C(C)(C)C)c(Cl)c(C(=O)OC)c1I"],"products_smiles": ["c1(c2ccccc2)c(c2cc(OC)ccc2)c(C(=O)OC)c(C)c(Cl)c1Oc2c(C=C)c(c2ccccc2)c(C(C)(C)C)c(Cl)c2(C(=O)OC)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(c2ccccc2)c(c2cc(OC)ccc2)c(C(=O)OC)c(C)c(Cl)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=C)c(c2ccccc2)c(C(C)(C)C)c(Cl)c(C(=O)OC)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C=C)c(c2ccccc2)c(C(C)(C)C)c(Cl)c(C(=O)OC)c2[Cu](I)Oc1c(c2ccccc2)c(c2cc(OC)ccc2)c(C(=O)OC)c(C)c1(Cl)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(c2ccccc2)c(c2cc(OC)ccc2)c(C(=O)OC)c(C)c(Cl)c1Oc2c(C=C)c(c2ccccc2)c(C(C)(C)C)c(Cl)c2(C(=O)OC)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-229_1-C_2-c1ccc2ccccc2c1_3-C#N_4-C_5-C","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(C)(c1ccc2ccccc2c1)","C(C#N)=C(C)(C)","O"],"products_smiles": ["C([OH])(C)(C)C(C#N)(C(O)(C)(c1ccc2ccccc2c1))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](C)(C)C(C#N)(C(O)(C)(c1ccc2ccccc2c1))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(C)(C)C(C#N)(C(O)(C)(c1ccc2ccccc2c1))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(C)(C)C(C#N)(C(O)(C)(c1ccc2ccccc2c1))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
